US07351778B2
(3) Preparation of ethyl 2-benzyl-3-benzoyloxybutyrate
A mixture of 0.04 mol of ethyl 2-benzyl-3-hydroxybutyrate, 0.045 mol of pyridine, 0.05 mol of benzoyl chloride and 40 ml of dried tetrahydrofuran (THF) was refluxed by heating for 8 hrs, and then was allowed to react at room temperature for further 12 hrs. Upon the completion of the reaction, the reaction mixture was filtered, and the solid component was wished with diethyl ether for three times. The organic phases were combined, wished well with saturated saline, and then dried over anhydrous sodium sulfate. After removing the solvent, residue was subjected to column chromatography to give a colorless liquid. Yield 85%.

reactant | ethyl 2-benzyl-3-hydroxybutyrate | 0.04 mol | C(C1=CC=CC=C1)C(C(=O)OCC)C(C)O | C13H18O3
reactant | pyridine | 0.045 mol | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.05 mol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ethyl 2-benzyl-3-benzoyloxybutyrate | Yield 85% | C(C1=CC=CC=C1)C(C(=O)OCC)C(C)OC(C1=CC=CC=C1)=O | C20H22O4
